US04734416
20 Grams of 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril and 3 ml of ethyl 2-bromoacetate and 1.5 ml of triethylamine are mixed with 20 ml of dimethyl formamide at 50°-60° C. for 8 hours under stirring conditions. The reaction mixture is concentrated under reduced pressure and to the viscous residue thus obtained are added 30 ml of 2% sodium hydrogencarbonate aqueous solution followed by extraction with chloroform. The chloroform layer is washed with water, dried and chloroform is removed by distillation. The residue is purified by silica gel chromatography and recrystallized from isopropanol to obtain 5-{3-[4-(2-acetyloxyethyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 131°-132° C.

reactant | 5-(3-piperazinylpropoxy)-3,4-dihydrocarbostyril | N1(CCNCC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C16H23N3O2
reactant | ethyl 2-bromoacetate | 3 ml | BrCC(=O)OCC | C4H7BrO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | 30 ml | C(O)([O-])=O.[Na+]
solvent | dimethyl formamide | 20 ml | CN(C=O)C | C3H7NO
product | 5-{3-[4-(2-acetyloxyethyl)piperazinyl]propoxy}-3,4-dihydrocarbostyril | C(C)(=O)OCCN1CCN(CC1)CCCOC1=C2CCC(NC2=CC=C1)=O | C20H29N3O4
